Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],-3.75928169976
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:8].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:9]([H:10])[H:11],1.7240571988900002
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[O:8][C:9][H:10],1.11168315741
[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19]>>[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2][H:3],5.042403329830001
[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1]=[C:2]([H:3])[C@:4]([O:5][H:6])([C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],4.5530684905
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][H:9]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7].[O:8][H:9],4.9842372502900005
[C:7]([H:8])(=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])[H:14],-1.75775113914
[C:2][O:3]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.64373727472
[O:1]=[C:2](/[C:3]([H:4])=[C:5]/[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:4].[O:1]=[C:2]([C:3]#[C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11],2.41400758001
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3],3.08472457808
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.88252334843
[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[O:9].[H:10],0.962461695236
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([C:8]=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:9],4.78324933621
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[C:4]([H:5])([H:6])[H:7].[H:1][C:2]#[C:3],5.77633041278
[H:10].[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.432487720319999
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.76000175085
[H:1][C:2][C:3](=[O:4])[C:6]([H:7])([H:8])[O:9][H:10].[H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10],-3.57999582731
[H:1][O:2][C@:3]1([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],3.82216441811
[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-3.81379310141
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],6.12886703806
[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])[O:4][C:5]#[C:6]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-6.40046779972
[H:12].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.63205538847
[C:2]([H:3])#[C:4][C:5]([H:6])([H:7])[O:8][C:9][H:10].[O:1]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[O:8][C:9][H:10],-2.29716819246
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11].[O:12][H:13]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-6.48707620147
[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]=[C:8]([H:9])[H:10]>>[C:4]#[C:5][O:6][C:7][C:8]([H:9])[H:10].[H:1][C:2][H:3],7.0732562568
[C:1]#[C:2][H:3].[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-3.66686102105
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:3][H:4].[H:1][C:8]([C:5]([C:2])([H:6])[H:7])=[C:9][H:10],10.5578191934
[C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-5.96892774931
